US04395556
(S)-1-[2-Methyl-3-[(4-nitrobenzofurazan-7-yl)thio]-1-oxopropyl]-L-proline
3 Mg of 1-(3-mercapto-2-methyl-1-oxopropyl)-L-proline was placed in a vial and dilute hydrochloric acid (0.1 N, 2 ml) added to dissolve same. 3 Ml of 0.1 M sodium bicarbonate solution was next added and the mixture was mixed in a vortex mixer. Thereafter, 3 ml of 1% (w/v) 4-chloro-7-nitrobenzofurazan in methyl ethyl ketone was added to the mixture, the vial was then closed and mixing was continued. The vial was held under running hot tap water, while shaking the vial, for about 2 minutes. The vial was then allowed to stand for 3 minutes, the organic (upper) layer was removed and was found to contain the title compound. The title compound was found to be fluorescent.

reactant | 1-(3-mercapto-2-methyl-1-oxopropyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
reactant | hydrochloric acid | 0.1 N, 2 ml | Cl | ClH
reactant | sodium bicarbonate | 0.1 M | C([O-])(O)=O.[Na+]
reactant | 4-chloro-7-nitrobenzofurazan | ClC1=CC=C(C=2C1=NON2)[N+](=O)[O-] | C6H2ClN3O3
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | water | O | H2O
product | (S)-1-[2-Methyl-3-[(4-nitrobenzofurazan-7-yl)thio]-1-oxopropyl]-L-proline | CC(C(=O)N1[C@H](C(=O)O)CCC1)CSC1=CC=C(C2=NON=C21)[N+](=O)[O-] | C15H16N4O6S
